US05316755
To a solution of 2-decanol (5.0 ml, 26.0 mmol) in dry CH2Cl2 (52 ml) under an N2 atmosphere was added diisopropylethylamine (5.6 ml, 32.1 mmol). The reaction flask was immersed in an ice/water bath. After stirring for 10 minutes, methanesulfonyl chloride (2.8 ml, 36.1 mmol) was added via syringe over a period of 10 minutes. After stirring for 3 hrs, the reaction was diluted with cold CH2Cl2 (200 ml) and poured into cold 5% aqueous HCl (100 ml). The layers were separated and the organic phase washed with cold 5% aqueous HCl (50 ml) followed by brine (2×50 ml). The CH2Cl2 layer was dried (Na2SO4), filtered and evaporated in vacuo at 25° C. The resulting light yellow oil was pumped under reduced pressure for 2 hrs to provide 2-methanesulfonyloxydecane (6.5 g, 93.5%) as a light yellow oil.

reactant | 2-decanol | 26.0 mmol, 5.0 ml | CC(CCCCCCCC)O | C10H22O
reactant | diisopropylethylamine | 32.1 mmol, 5.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 36.1 mmol, 2.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 100 ml | Cl | ClH
solvent | CH2Cl2 | 52 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-methanesulfonyloxydecane | 6.5 g, 93.5% | CS(=O)(=O)OC(C)CCCCCCCC | C11H24O3S
